US05866594
2) Synthesis of methyl 4-chloro-3,7-dimethylindole-2-carboxylate (compound 30)
An excess diazomethane ether solution was added to an ether solution of 0.50 g (2.24 mmol) of 4-chloro-3,7-dimethylindole-2-carboxylic acid under ice-cooling. The reaction mixture was allowed to stand for 30 minutes and then washed with 1N HCl aqueous solution and aqueous saturated sodium chloride solution. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide white crystals. The crude crystals were purified by silica gel column chromatography to provide 0.41 g of white crystals. Yield: 77%

reactant | diazomethane ether | [N+](=[N-])=C.CCOCC
reactant | 4-chloro-3,7-dimethylindole-2-carboxylic acid | 2.24 mmol, 0.50 g | ClC1=C2C(=C(NC2=C(C=C1)C)C(=O)O)C | C11H10ClNO2
solvent | ether | CCOCC | C4H10O
product | methyl 4-chloro-3,7-dimethylindole-2-carboxylate | 0.41 g, Yield: 77% | ClC1=C2C(=C(NC2=C(C=C1)C)C(=O)OC)C | C12H12ClNO2
